datasets/10k__Tet_Int.csv
SMILES Labelled
"[OH:10]C(C=CC=C1)=C1C(C)C([C:20](OCC)=[OH+:21])O>>[OH:21][C:20]2(OCC)C(C(C)C3=C([OH+:10]2)C=CC=C3)O 10=20;20,21=21"
"[H][O:10]C([H])C(C)C(C8=CC=CC=C8)[O][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C 10=20;20,21=21"
"[O-:21][C:20]1(OC)C(O)C(C)C(C)C([H])[O+:10]1([Na])>>[O:10]([Na])C([H])C(C)C(C)C(O)[C:20](OC)=[O:21] 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C([H])C(CC)[NH]1)[C:20]1([NH:21]CC)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])C(CC)[NH][C:20]([O]CC)=[NH+:21]CC 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C([O:21]1)C)[H])[O-:10])C1=CC=CC=C1>>CCCCCCN([C:20](=[O:10])OC(C([O-:21])C)[H])C1=CC=CC=C1 10=20;20,21=21"
"[H][O+:10](C(C)C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)[NH][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C[S+:10]([H])[C:20]([O:21]C)([S]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C[S:10][H].C[O+:21]=[C:20]([S]C)[O]C7=CC=CC=C7 21=20;20,10=10"
"[H][S+:10](C(CC)C(C)C(C)[S]1)[C:20]1([O:21]C)[O]CC.[Cl-]>>[Cl-].[H][S:10]C(CC)C(C)C(C)[S][C:20]([O]CC)=[O+:21]C 21=20;20,10=10"
"C1=CC=CC=C1C1C(O[C:20](=[O:10])N1[H])C1=CC=CC=C1.[O-:21]C1=CC=CC=C1>>C1=CC=CC=C1C1C(O[C:20](N1[H])([O-:10])[O:21]C1=CC=CC=C1)C1=CC=CC=C1 21=20;20,10=10"
"CC[NH:10][H].[H][NH+:21]=[C:20]([NH]C8=CC=CC=C8)[NH][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]([NH:21][H])([NH]C8=CC=CC=C8)[NH][H] 10=20;20,21=21"
"[H]N([C:20]1(OC(C(C([O:21]1)[H])CC)C1=CC=CC=C1)[O-:10])CC>>[H]N([C:20](=[O:10])OC(C(C([O-:21])[H])CC)C1=CC=CC=C1)CC 10=20;20,21=21"
"[H][O:10]C(CC)C([H])C([H])[NH][C:20]([NH][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C([H])[NH]1)[C:20]1([NH:21]CC)[NH][H] 10=20;20,21=21"
"[NH:10](C)C(CC)C([H])/C(C)=C(C)\[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(C)=C(C)C([H])C(CC)[NH+:10]1(C) 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C(C)[CH](CC)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(CC)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])CC)CCCCCC)CCCCCC)C1=CC=CC=C1>>CN([C:20]1(OC(C(C([O:21]1)CC)CCCCCC)CCCCCC)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21][H])[NH]C(CC)C([H])[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH]C(CC)C([H])[O]2.CC[O:10][H] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(C)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](C)C(C)[CH](C)[O]1 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]([O-:10])(OC1=CC=CC=C1)[O:21]CCCCCC)CC>>C1=CC=CC=C1N([C:20](=[O:10])OC1=CC=CC=C1)CC.[O-:21]CCCCCC 10=20;20,21=21"
"CC[NH:10][H].[H][NH+:21]=[C:20]([O]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]([NH:21][H])([O]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
"CC1C(O[C:20](N1CCCCCC)([O-:10])[O:21][H])C>>CC1C(O[C:20](=[O:10])N1CCCCCC)C.[O-:21][H] 10=20;20,21=21"
"[O-:21][CH:20]2(OC)C3=C(C(C([NH+:10]2(C))C)[H])C=CC=C3>>[NH:10](C)C(C(C1=C(C=CC=C1)[CH:20](OC)=[O:21])[H])C  21=20;20,10=10"
"[H][O:10]C(CC)C([H])C(CC)[O][C:20]([O]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(CC)[O]1)[C:20]1([NH:21]C)[O]C 10=20;20,21=21"
"[H][O+:10]([K])[C:21]([O-:20])(OCC)OCCCCCC>>[O:20]=[C:21](OCC)OCCCCCC.[H][O:10][K] 20=21;21,10=10"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C)C)[H])C1=CC=CC=C1>>CCCCCCN([C:20]1(OC(C(C([O:21]1)C)C)[H])[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CCCCCC)CCCCCC)CC>>CN([C:20]1(OC(C(C([O:21]1)CCCCCC)CCCCCC)CCCCCC)[O-:10])CC 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21][H])[H])[H]>>CCCCCCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H])[H].[O-:21][H] 10=20;20,21=21"
"[OH:21][C:20]1(OCC)C([H])C(O)C(C)C(CCC)[OH+:10]1>>[OH:10]C(CCC)C(C)C(O)C([H])[C:20](OCC)=[OH+:21] 21=20;20,10=10"
"[H][O+:10](C(CC)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C8=CC=CC=C8)[O][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O:10]C(C)C(C)C(C8=CC=CC=C8)[S][C:20]([S]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C)C(C)[CH](C)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(C)[O]2.C[O:10][H] 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S]C(C)C(C8=CC=CC=C8)[S]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][H])[S]C(C)C(C8=CC=CC=C8)[S]1 10=20;20,21=21"
"[Li][O+:21]([C:20]([O-:10])(OCC)O[H])C1=CC=CC=C1>>[Li][O:21]C1=CC=CC=C1.[C:20](=[O:10])(OCC)O[H] 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C(C)C(C)C([H])C(CCC)[O:10]1>>[O-:10]C(CCC)C([H])C(C)C(C)[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H][NH+:10](C([H])C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])C(C8=CC=CC=C8)[O][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
